US04758552
Preparation of H-Leu-Gln-Pro-NHEt.HBr (molecular weight: 465.5)
70 ml of a 4N solution of hydrogen bromide in glacial acetic acid are added to a solution containing 7.6 g (14.6 mmoles) of Z-Leu-Gln-Pro-NHEt in 50 ml of glacial acetic acid, then the mixture is left to stand at room temperature for 90 minutes. The mixture is slowly poured into 800 ml of ice-cold ether while stirring. After 30 minutes, the stirring is stopped and the settled precipitate is filtered and dried in a desiccator over phosphorus pentoxide to give 7.9 g of the aimed product, m.p.: 147° C.

reactant | hydrogen bromide | Br | BrH
reactant | Z-Leu-Gln-Pro-NHEt | 14.6 mmoles, 7.6 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OCC1=CC=CC=C1 | C26H39N5O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | H-Leu-Gln-Pro-NHEt.HBr | 7.9 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N1[C@H](C(=O)NCC)CCC1.Br | InChI=1S/C18H33N5O4.BrH/c1-4-21-17(26)14-6-5-9-23(14)18(27)13(7-8-15(20)24)22-16(25)12(19)10-11(2)3;/h11-14H,4-10,19H2,1-3H3,(H2,20,24)(H,21,26)(H,22,25);1H/t12-,13-,14-;/m0./s1
